US08426420B2
i) (S)-2-Benzyloxycarbonylamino-4,4,4-trifluoro-butyric acid
To a solution of 250 mg (S)-2-Benzyloxycarbonylamino-4,4,4-trifluoro-butyric acid methyl ester in 2 ml THF and 0.5 ml water were added 20 mg LiOH at 0° C. The reaction mixture was brought to pH 3 by using Amberlite IR-120 ion exchange resin before being filtered and concentrated to give the crude title compound. Yield: 236 mg.

reactant | (S)-2-Benzyloxycarbonylamino-4,4,4-trifluoro-butyric acid methyl ester | 250 mg | COC([C@H](CC(F)(F)F)NC(=O)OCC1=CC=CC=C1)=O | C13H14F3NO4
reactant | LiOH | 20 mg | [Li+].[OH-]
solvent | THF | 2 ml | C1CCOC1 | C4H8O
solvent | water | 0.5 ml | O | H2O
product | (S)-2-Benzyloxycarbonylamino-4,4,4-trifluoro-butyric acid | C(C1=CC=CC=C1)OC(=O)N[C@H](C(=O)O)CC(F)(F)F | C12H12F3NO4
